US07816380B2
To a solution of benzyl 4,4-difluoro-1-hydroxycyclohexanecarboxylate (1.8 g, 6.66 mmol) in 13 ml of pyridine was added phosphorous oxychloride (1.12 g, 7.33 mmol). The resulting solution was stirred under nitrogen at room temperature for 18 hours, and then poured into 70 mL of saturated ammonium chloride solution and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with 2 molar hydrochloric acid solution and brine and then dried over sodium sulfate. Filtration and concentration under vacuum afforded the crude product which was purified by chromatography on silica gel eluting 2% ethyl acetate in hexanes to give benzyl 4,4-difluorocyclohex-1-ene-1-carboxylate as an oil.

reactant | benzyl 4,4-difluoro-1-hydroxycyclohexanecarboxylate | 6.66 mmol, 1.8 g | FC1(CCC(CC1)(C(=O)OCC1=CC=CC=C1)O)F | C14H16F2O3
reactant | phosphorous oxychloride | 7.33 mmol, 1.12 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium chloride | 70 mL | [Cl-].[NH4+]
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | benzyl 4,4-difluorocyclohex-1-ene-1-carboxylate | FC1(CC=C(CC1)C(=O)OCC1=CC=CC=C1)F | C14H14F2O2
